US04076838
1-isobutyl-3-oxo-5-indanacetic acid
4-carboxymethyl-β-isobutyl-dihydrocinnamic acid is cyclized in a manner analogous to that described in Example 1. The cyclohexylamine salt of the title compound has a M.P. of 140°-142° (from methanol/ether).

reactant | 4-carboxymethyl-β-isobutyl-dihydrocinnamic acid | C(=O)(O)CC1=CC=C(C(CC(=O)O)CC(C)C)C=C1 | C15H20O4
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 1-isobutyl-3-oxo-5-indanacetic acid | C(C(C)C)C1CC(C2=CC(=CC=C12)CC(=O)O)=O | C15H18O3
